US08236963B2
A stirred solution of the crude 5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione, intermediate 9 (800 mg, 3.19 mmol) in anhydrous N,N-dimethylformamide (6 ml) was treated with potassium tert-butoxide (377 mg, 3.19 mmol). After stirring at ambient temperature for 40 min, benzyl bromide (0.38 ml, 3.19 mmol) was added. The mixture was stirred for 2 hours and left to stand overnight. The resultant mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude 1′-benzyl-5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione which was purified by flash chromatography (silica) eluting with petroleum ether (40-60) containing an increasing amount (0 to 75%) of ethyl acetate. This gave 789 mg (73%) of a yellow solid.

reactant | 5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione | ClC=1C=C2C(=CC1)NC(C21C(NC(C1)=O)=O)=O | C11H7ClN2O3
reactant | potassium tert-butoxide | 3.19 mmol, 377 mg | CC(C)([O-])C.[K+]
reactant | benzyl bromide | 3.19 mmol, 0.38 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1′-benzyl-5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione | C(C1=CC=CC=C1)N1C(C2(CC1=O)C(NC1=CC=C(C=C12)Cl)=O)=O | C18H13ClN2O3
